US09353107B2
Step-ii: 2-cyclopropyl-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine
tert-butyl 5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-2-cyclopropyl-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (100 mg) dissolved in 2 ml of methanol and added methanol/HCl (3 ml) at 0° C. and stirred at room temperature for 30 min. The reaction was monitored by TLC (10% methanol in chloroform). The reaction mixture was concentrated under reduced pressure to afford crude product. The residue was basified with saturated sodium bicarbonate solution and extracted with DCM (2×25 ml). The organic layer was dried over Na2SO4, and concentrated under reduced pressure to afford 7 mg (9.72% yield) of the pure required product. 1H NMR (DMSO-d6, 400 MHz): δ 11.30 (s, 1H), 8.34 (s, 1H), 7.64-7.39 (m, 5H), 7.15-7.11 (t, 1H), 7.01-6.95 (m, 4H), 5.34 (s, 2H), 4.20-4.00 (m, 4H), 3.10-3.00 (m, 4H), 2.09 (s, 3H), 2.08 (s, 3H), 1.82-1.79 (m, 1H), 0.96-0.95 (m, 4H). MS: m/z=521.4 (M+1), HPLC Purity: 80.32% Method: A.

reactant | tert-butyl 5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-2-cyclopropyl-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 100 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C=C2C(=NC1)N(C(=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C)C2CC2)C(=O)OC(C)(C)C | C42H49FN6O4
reactant | methanol HCl | 3 ml | CO.Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-cyclopropyl-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 7 mg, 9.72% yield | C1(CC1)C1=C(C=2C(=NC=C(C2)C2=CC=C(C=C2)N2CCNCC2)N1)C=1C(=NN(C1C)CC1=CC(=CC=C1)F)C | C32H33FN6
